Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a history ___ body dementia, ___, HTN 
presents after unwitnessed fall. Patient is unable to give 
meaningful history in the emergency room but fell sometime 
overnight and was found down by his ex-wife. EMS brought the 
patient to ___ where imaging was notable for left 
___ rib fractures. He was transferred to ___ for further 
evaluation.  

At time of trauma evaluation, the patient is in no acute 
distress. History gathered primarily from available notes, as 
the patient is unable to provide meaningful history and no 
family is available at bedside. He answers to name but is not 
oriented. He reports left flank pain and points to the area of 
ecchymosis, but denies other pain. Unclear HS, LOC or previous 
falls. He denies
chest pain, shortness of breath or nausea. He is unable to 
answer complex questions, and review of systems is limited due 
to patient's mental status.
 
Past Medical History:
Past Medical History: HTN, ___ body dementia 

Past Surgical History: unable to obtain 

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: T97.4, HR67 BP111/66 RR18 100% RA 
GEN: NAD, alert, not oriented to place or time 
HEENT: normocephalic atraumatic, no midline tenderness to
palpation
CV: RRR
PULM: no respiratory distress, non-labored breathing 
ABD: Soft nontender nondistended, ecchymosis over the lower left
abdomen extending around to the left flank with tenderness to
palp, no hematoma or skin breakdown
BACK: no ecchymosis, no bony step-offs or paraspinal tenderness 
Ext: essential tremor, bilateral lower extremity edema, palpable
distal pulses in upper and lower extremities  

Discharge Physical Exam:
Vitals: 97.6 BP121/72 HR___
Gen: appears older, lying in bed 
CV: rrr
Pulm: non-labored breathing 
Abd: soft, little tenderness to palpation over left lower 
abdomen extending to flank 
Neuro: dysarthric speech, mild cogwheel rigidity and stiffness, 
resting tremor, severe ataxia, grossly moving all extremities. 
oriented to name and place (fluctuates) 

 
Pertinent Results:
IMAGING:

OSH IMAGING:

CT HEAD: No acute intracranial abnormality is identified.
CT C-Spine: No fracture or acute subluxation of the cervical
spine.
CT Torso: No acute thoracic abnormality is identified.
R ELBOW: No acute osseous abnormality is identified within the
right elbow.
CT A/P: 
1. There are acute nondisplaced fractures of the ___ and ___
posterior lateral left ribs and healing fractures of the eighth
ninth
anterior lateral ribs on the left.
2. There is a fusiform abdominal aortic aneurysm within the mid
to
distal aorta measuring 4.1 x 4.4 cm. In ___ previously measured
3 cm.

ADMISSION LABS:
___ 06:45PM   GLUCOSE-77 UREA N-24* CREAT-1.0 SODIUM-148* 
POTASSIUM-4.1 CHLORIDE-110* TOTAL CO2-26 ANION GAP-12
___ 06:45PM   WBC-7.7# RBC-3.83*# HGB-12.0*# HCT-37.1*# 
MCV-97 MCH-31.3 MCHC-32.3 RDW-12.6 RDWSD-45.1
___ 06:45PM   PLT COUNT-168#
___ 09:25AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 09:25AM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:25AM URINE  RBC-2 WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 09:00AM   ___ PO2-54* PCO2-44 PH-7.39 TOTAL CO2-28 
BASE XS-0
___ 09:00AM   O2 SAT-86
___ 08:40AM   GLUCOSE-94 UREA N-27* CREAT-1.1 SODIUM-145 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-25 ANION GAP-13
___ 08:40AM   WBC-4.7 RBC-2.48* HGB-7.9* HCT-24.7* MCV-100* 
MCH-31.9 MCHC-32.0 RDW-12.6 RDWSD-45.6
___ 08:40AM   NEUTS-64.0 ___ MONOS-7.7 EOS-2.1 
BASOS-0.4 IM ___ AbsNeut-3.00 AbsLymp-1.20 AbsMono-0.36 
AbsEos-0.10 AbsBaso-0.02
___ 08:40AM   PLT SMR-LOW* PLT COUNT-100*
___ 08:40AM   ___ PTT-28.2 ___
 
Brief Hospital Course:
Mr. ___ is a ___ with ___ body dementia with Parkinsonian 
features, who was admitted to ___ on ___ after an 
unwitnessed fall on ___. He initially presented to 
___ where imaging was notable for left ___ rib 
fractures and he was transferred to ___ for further 
evaluation. On presentation he was admitted to the ACS service 
for pain control and physical therapy evaluation. Fall thought 
to be related to postural instability secondary to ___ Body 
Dementia with Parkinsonian features, with some contribution from 
orthostatic hypotension. Geriatrics was consulted to help with 
management of altered mental status and neurology was consulted 
for titration of ___ Disease medications. Comprehensive 
assessment found patient to have likely moderate dementia 
although difficult to completely assess in the setting of 
delirium. Patient recovered to baseline mental status and was 
evaluated by physical therapy prior to discharge. 

The patient remained hemodynamically stable.  He remained stable 
from a cardiovascular and pulmonary standpoint.  Pain was 
managed with acetaminophen and a lidocaine patch. The patient 
tolerated a regular diet.  Intake and output were monitored.  
The patient received subcutaneous heparin for DVT prophylaxis. 
At the time of discharge, the patient was hemodynamically 
stable, tolerating a regular diet, voiding without issue and was 
afebrile.  The patient received discharge teaching, he and his 
HCP were in agreement with the discharge plan.  

Please following the following recommendations to help prevent 
delirium:
- Continue monitor for urinary retention
- Continue to keep pt at window bed
- Continue to hold overnight vitals as long as pt remains stable
- IF pt becomes agitated, would give extra 25mg seroquel x1 (do
NOT use other antipsychotics as this can worsen LBD)
- CONTINUE home fluoxetine 30mg daily 
- As much as possible, continue to limit tethers (d/c SCIDs,
foleys, tele, etc)
- OOB for meals if/when eating TID
- Reorient frequently
- Ensure BM at least once every other day, if not daily.

TRANSITIONAL ISSUES 
===================
[]Fall likely secondary to postural instability from worsening 
LBD/PD with contribution from orthostatic hypotension. 
Orthostatic on day of discharge were positive. Would recommend 
rechecking at SNF. If positive can consider starting midodrine 
2.5mg BID. Of note, per review of records, patient was 
previously started on this at some point. Unclear why it was 
discontinued. 
[]High concern for patient's ability to perform ADLs at home. 
After SNF he should be reassessed for ability to return home 
versus a transition to long term care. Patient at minimum needs 
help with his medications if he should return home. 
[]Patient to follow up with outpatient neurologist Dr. ___ on 
___ at 10:00 AM (___) to discuss sinemet dosing. Would 
also benefit from further discussion of long term care plans. 
[]Health care proxy chosen: ___ (SON). Phone 
number: ___

 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. FLUoxetine 30 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. QUEtiapine Fumarate 25 mg PO QHS 
4. Donepezil 15 mg PO QHS 
5. Carbidopa-Levodopa ___ TAB PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Docusate Sodium 100 mg PO BID 
please hold for loose stool  
3.  Heparin 5000 UNIT SC BID  
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
leave on for 12 hours and then remove and leave off for 12 hours 
 
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Senna 17.2 mg PO HS 
hold for loose stool  
7.  Carbidopa-Levodopa (___) 1 TAB PO DAILY  
8.  Donepezil 15 mg PO QHS  
9.  Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES TID  
10.  FLUoxetine 30 mg PO DAILY  
11.  QUEtiapine Fumarate 25 mg PO QHS  
12.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Unwittnessed Fall
-Left ___ and 11th rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
a fall and you were found to have left-sided rib fractures.  You 
were admitted to the hospital for pain control and to monitor 
your breathing.  You have worked with Physical Therapy and it is 
recommended that you be discharged to a skilled nursing facility 
to continue your recovery.  You are now ready to be discharged 
from the hospital.

Please note the following discharge instructions:

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for ___ 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

It was a pleasure taking care of you, 
Your ___ Surgery Team 
 
Followup Instructions:
___